US04198409
Preparation of 1-(2',6'-dimethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one
About 200 mg of 1-(2,6-dimethylphenyl)-3-methylamidinourea hydrochloride was introduced in a gas chromatograph hypo vial and dissolved in 1 ml of acetonitrile. To the solution was added 0.2 ml of DMF DMA reagent. The vial was sealed with crimper and heated at 105° C. for 15 minutes in an oven. Seven vials were made. The contents of the vials were then put into a long-neck round bottom flask and evaporated to dryness by a flask evaporator. The solid mass was dissolved in a mixture of 30 ml of CHCl3 and 20 ml of water and shaken vigorously in a 60 ml separatory funnel. The aqueous layer was discarded and 20 ml of water was added and shaken. The CHCl3 layer was then taken and about 10 g of anhydrous Na2SO4 was added, the CHCl3 solution was decanted into a flask and evaporated to dryness. The solid material was dissolved in 2-pentanone (about 80 ml) at 70° C. The solution was concentrated and crystallized upon cooling. The crystals were collected and dried in a desiccator with P2O5 with vacuum for one hour.

reactant | 1-(2,6-dimethylphenyl)-3-methylamidinourea hydrochloride | 200 mg | Cl.CC1=C(C(=CC=C1)C)NC(=O)NC(NC)=N
reactant | DMF DMA | 0.2 ml | CN(C)C=O.CC(=O)N(C)C
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-(2',6'-dimethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one | CC1=C(C(=CC=C1)C)N1C(N=C(N=C1)NC)=O | C12H14N4O
